US07737141B2
Synthesis of (R)-5-oxopyrrolidine-1,2-dicarboxylic acid 1-t-butyl ester 2-ethyl ester
To a tetrahydrofuran (200 mL) solution containing D-pyroglutamic acid ethyl ester (20 g), triethylamine (35.2 mL) and di-t-butyldicarbonate (30.5 g) was added 4-dimethylaminopyridine (1.55 g), and the resultant solution was stirred for 5 hours at room temperature. To the solution was then added imidazole (1.3 g), and the reaction mixture was stirred for 30 minutes at room temperature. Solvent was removed by distillation under reduced pressure, and the resulting product was diluted with ethyl acetate. The ethyl acetate solution was successively washed 3 times with 0.2 N hydrochloric acid, and then washed with brine. The organic layer was then dried over anhydrous magnesium sulfate. Solvent was removed by distillation under reduced pressure, to thereby obtain the titled compound (31.08 g). The physical properties of the compound were as follows.

reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
reactant | D-pyroglutamic acid ethyl ester | 20 g | C(C)OC([C@@H]1NC(CC1)=O)=O | C7H11NO3
reactant | di-t-butyldicarbonate | 30.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | imidazole | 1.3 g | N1C=NC=C1 | C3H4N2
catalyst | 4-dimethylaminopyridine | 1.55 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | 35.2 mL | C(C)N(CC)CC | C6H15N
product | (R)-5-oxopyrrolidine-1,2-dicarboxylic acid 1-t-butyl ester 2-ethyl ester | 31.08 g | CCOC(=O)[C@@H]1N(C(CC1)=O)C(=O)OC(C)(C)C | C12H19NO5
